US04455441
The procedure of example 6 is substantially repeated using 562.9 mg (2.20 mmol) of 10-fluoro-(Z)-3-decen-1-yl-tetrahydropyranyl ether and 500 mg Dowex in about 20 ml methanol. Purification of the resultant product by flash chromatography gives 10-fluoro-(Z)-3-decen-1-ol (344 mg, 90%) as a clear colorless liquid: Rf=0.39 hexane/ethyl acetate (7:3, v/v); IR (film) ν3100-3600 (OH), 3000 (C=CH), 2850-2950 (alkane CH); and H NMR (CDCl3) δ1.20-1.65 (m, 8H), 2.05 (m, 2H), 2.77 (br q, J=5 Hz, 2H), 3.60 (t, J=6 Hz, 2H), 4.37 (dt, J=48 Hz, 6 Hz, 2H), 5.42 (m, 2H).

reactant | 10-fluoro-(Z)-3-decen-1-yl-tetrahydropyranyl ether | 2.20 mmol, 562.9 mg | FCCCCCCCC\C=C/C1C(OCCC1)OC1OCCCC1\C=C/CCCCCCCCF | C30H52F2O3
reactant | methanol | about 20 ml | CO | CH4O
product | 10-fluoro-(Z)-3-decen-1-ol | 344 mg, 90% | FCCCCCC\C=C/CCO | C10H19FO
